US08445538B2
Step D. N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alanine
To a solution of ethyl N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alaninate (slower-eluting diastereomer, 10 mg, 0.018 mmol) in ethanol (2 mL) was added LiOH (2.0 N in water, 0.5 mL, 1.0 mmol), then the reaction mixture was stirred for one hour. The mixture was diluted with DCM (20 mL) acidified with 2.0 N HCl (aq). The organic layer was dried over MgSO4, concentrated, then the residue was purified by silica gel chromatography eluting with 10% MeOH/DCM to afford the title compound. 1H NMR (499 MHz, CDCl3): δ 8.27 (d, J=8.5 Hz, 1H); 8.13 (d, J=8.2 Hz, 1H); 7.67-7.49 (m, 5H); 7.20 (m, 3H); 6.95 (dd, J=8.3, 2.5 Hz, 2H); 6.76 (m, 1H); 6.51 (d, J=8.3 Hz, 2H); 4.86 (d, J=11.3 Hz, 1H); 3.76 (m, 2H); 3.60 (s, 3H); 3.58 (m, 1H); 2.65 (t, J=5.8 Hz, 2H); 1.70 (m, 2H); 1.07 (m, 2H); 0.76 (t, J=7.2 Hz, 3H). LC1 1.19 min. [M+]+ 514.

reactant | ethyl N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alaninate | 0.018 mmol, 10 mg | FC1=CC=C(C2=CC=CC=C12)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC=C(C=C1)OC | C34H36FNO4
reactant | LiOH | 1.0 mmol, 2.0 N, 0.5 mL | [Li+].[OH-]
reactant | HCl | 2.0 N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alanine | FC1=CC=C(C2=CC=CC=C12)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C=C1)OC | C32H32FNO4
